US08748011B2
Synthesis of 4-methyl-3-(o-tolyl)thiazole-2(3H)-thione
A solution of 2-methyl aniline (10.71 g, 100 mmol) in DMSO (50 mL) was treated with 20N aqueous NaOH (5 mL, 100 mmol) at room temperature. The mixture was cooled to 0° C. and CS2 (7.61 g, 100 mmol) was added. Upon stirring for 1 hour at room temperature, a change of color from dark-red to orange was observed. The solution was then cooled to 0° C. and chloroacetone (9.25 g, 100 mmol) was added. After stirring for 3 hours at room temperature, water (100 mL) was added and the mixture was stirred for an additional 10 minutes at 0° C. The precipitate was filtered and successively washed with water and ethanol. The crude product was suspended in 95% ethanol (100 mL), and 36% HCl (50 mL) was added and the mixture was heated to reflux for 1 hour. After cooling to room temperature, the precipitate was filtered to yield the desired product. (8.7 g, 38%)

reactant | 2-methyl aniline | 100 mmol, 10.71 g | CC1=C(N)C=CC=C1 | C7H9N
reactant | NaOH | 100 mmol, 20N, 5 mL | [OH-].[Na+]
reactant | CS2 | 100 mmol, 7.61 g | C(=S)=S | CS2
reactant | chloroacetone | 100 mmol, 9.25 g | ClCC(C)=O | C3H5ClO
solvent | DMSO | 50 mL | CS(=O)C | C2H6OS
solvent | water | 100 mL | O | H2O
product | 4-methyl-3-(o-tolyl)thiazole-2(3H)-thione | CC=1N(C(SC1)=S)C1=C(C=CC=C1)C | C11H11NS2
